US05001125
A mixture of 4.5 parts of 3,6-dichloropyridazine, 4.9 parts of N-[3-(trifluoromethyl)phenyl]-3-piperidinamine, 6.4 parts of sodium carbonate and 180 parts of N,N-dimethylformamide was stirred overnight at about 65° C. The reaction mixture was poured into ice water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (99:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue Was crystallized from 2-propanol. The product was filtered off (the filtrate was set aside) and dried, yielding 1.2 parts (16.8%) of 1-(6-chloro-3-pyridazinyl)-N-[3-(trifluoromethyl)phenyl]-3-piperidinamine: mp. 92.6° C. (compound 146). The filtrate, which was set aside, was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried, yielding 2.6 parts (32.9%) of 1-(6-chloro-3-pyridazinyl)-N-[3-(trifluoromethyl)phenyl]-3-piperidinamine monohydrochloride; mp. 173.5° C. (compound 147).

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | N-[3-(trifluoromethyl)phenyl]-3-piperidinamine | FC(C=1C=C(C=CC1)NC1CNCCC1)(F)F | C12H15F3N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(6-chloro-3-pyridazinyl)-N-[3-(trifluoromethyl)phenyl]-3-piperidinamine | 16.8% | ClC1=CC=C(N=N1)N1CC(CCC1)NC1=CC(=CC=C1)C(F)(F)F | C16H16ClF3N4
